US03976635
To a solution of N-benzyloxycarbonyl-L-proline (1.25 g) and triethylamine (0.70 ml) in ethyl acetate (15 ml), ethyl 2-p-nitrophenyloxycarbonyloxyimino-2-cyanoacetate (1.55 g) in powder form is added at room temperature while stirring. The resulting mixture is stirred for 4 hours and then extracted with ethyl acetate. The extract is washed with water, dried and concentrated. The residue is recrystallized from an ethanol-petroleum ether mixture to give N-benzyloxycarbonyl-L-proline p-nitrophenyl ester (1.0 g). M.P. 94° - 96°C.

reactant | N-benzyloxycarbonyl-L-proline | 1.25 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-p-nitrophenyloxycarbonyloxyimino-2-cyanoacetate | 1.55 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)ON=C(C(=O)OCC)C#N | C12H9N3O7
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-L-proline p-nitrophenyl ester | 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C19H18N2O6
